US06844360B2
Synthesis of (S)-2-[(R)-7-(3,5-dichloro-phenyl)-5-methyl-6-oxo-5-(4-trifluoromethoxy-benzyl)-6,7-dihydro-5H-imidazo[1,2-a]imidazole-3-sulfonylamino]-N-(2-hydroxy-ethyl)-propionamide
To a suspension of N-Boc-L-(N-hydroxyethyl)alaninamide (0.188 g, 0.809 mmol) in 1 mL of dioxane was added HCl (2.0 mL, 4 M in dioxane), and the resulting cloudy mixture was stirred at room temperature for 2.5 h. Concentration of the mixture was followed by addition of CH2Cl2, and this process was repeated twice. Final pumping under high vacuum for 12 h afforded a colorless oil. The crude amine HCl salt was dissolved in 1.5 mL of DMF and treated with triethylamine (0.157 mL, 1.13 mmol). After stirring at room temperature for 10 min, a solution of (R)-7-(3,5-dichloro-phenyl)-5-methyl-6-oxo-5-(4-trifluoromethoxy-benzyl)-6,7-dihydro-5H-imidazo[1,2-a]imidazole-3-sulfonyl chloride (0.125 g, 0.225 mmol) in 3 mL of CH2Cl2 was added rapidly dropwise via cannula. The reaction mixture was stirred at room temperature for 4 h. Following the addition of EtOAc, the organic layer was washed with three portions of 5% NaCl solution, then brine, dried over Na2SO4, filtered and concentrated. The crude product was purified by preparative TLC to afford 0.118 g (81 %) of the title compound as a white foam (649.9, M+1).

reactant | HCl | 4 M, 2.0 mL | Cl | ClH
reactant | triethylamine | 1.13 mmol, 0.157 mL | C(C)N(CC)CC | C6H15N
reactant | (R)-7-(3,5-dichloro-phenyl)-5-methyl-6-oxo-5-(4-trifluoromethoxy-benzyl)-6,7-dihydro-5H-imidazo[1,2-a]imidazole-3-sulfonyl chloride | 0.225 mmol, 0.125 g | ClC=1C=C(C=C(C1)Cl)N1C([C@](N2C1=NC=C2S(=O)(=O)Cl)(CC2=CC=C(C=C2)OC(F)(F)F)C)=O | C20H13Cl3F3N3O4S
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | DMF | 1.5 mL | CN(C)C=O | C3H7NO
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | (S)-2-[(R)-7-(3,5-dichloro-phenyl)-5-methyl-6-oxo-5-(4-trifluoromethoxy-benzyl)-6,7-dihydro-5H-imidazo[1,2-a]imidazole-3-sulfonylamino]-N-(2-hydroxy-ethyl)-propionamide | 0.118 g, 81 % | ClC=1C=C(C=C(C1)Cl)N1C([C@](N2C1=NC=C2S(=O)(=O)N[C@H](C(=O)NCCO)C)(CC2=CC=C(C=C2)OC(F)(F)F)C)=O | C25H24Cl2F3N5O6S
